US07501425B1
7-[4-(2-Diethylaminoethoxy)phenylamino]-1-isopropyl-3-(4-methoxybenzyl)-1H-pyrimido[4,5-d]pyrimidine-2,4-dione
A mixture of 700 mg (1.78 mmol) of 7-(imidazol-1-yl)-1-isopropyl-3-(4-methoxybenzyl)-1H-pyrimido[4,5-d]pyrimidine-2,4-dione and 1.1 g (5.35 mmol) of 4-(2-diethylaminoethoxy)aniline is heated at 180° C. for 4 hours, then cooled. To the reaction mixture is added 357 mg (3.6 mmol) of succinic anhydride, 1 mL of chloroform, and 3 mL of dimethylformamide. The reaction mixture is heated at 50° C. for 2 hours, cooled, and diluted with chloroform. The mixture is washed with a saturated solution of sodium bicarbonate and brine. The organic phase is dried over magnesium sulfate, filtered, and concentrated. The residue is chromatographed on silica eluting with 5:95 methanol/chloroform to give a yellow solid which is crystallized from methanol/water to give 590 mg (61%) of the title compound: mp 139-141° C.

reactant | 7-(imidazol-1-yl)-1-isopropyl-3-(4-methoxybenzyl)-1H-pyrimido[4,5-d]pyrimidine-2,4-dione | 1.78 mmol, 700 mg | N1(C=NC=C1)C1=NC=C2C(=N1)N(C(N(C2=O)CC2=CC=C(C=C2)OC)=O)C(C)C | C20H20N6O3
reactant | 4-(2-diethylaminoethoxy)aniline | 5.35 mmol, 1.1 g | C(C)N(CCOC1=CC=C(N)C=C1)CC | C12H20N2O
reactant | succinic anhydride | 3.6 mmol, 357 mg | C1(CCC(=O)O1)=O | C4H4O3
reactant | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 1 mL | C(Cl)(Cl)Cl | CHCl3
product | 7-[4-(2-Diethylaminoethoxy)phenylamino]-1-isopropyl-3-(4-methoxybenzyl)-1H-pyrimido[4,5-d]pyrimidine-2,4-dione | 590 mg, 61% | C(C)N(CCOC1=CC=C(C=C1)NC1=NC=C2C(=N1)N(C(N(C2=O)CC2=CC=C(C=C2)OC)=O)C(C)C)CC | C29H36N6O4
